US05569664
A solution of 0.6 gram (0.0014 mole) of N-(4-propoxyphenylmethyl)-4-(4-trifluoromethoxyphenylcarbonyl)piperidine in 15 mL of tetrahydrofuran was stirred, and to the stirred solution was slowly added 1.8 mL of 4-chlorophenylmagnesium bromide (0.0018 mole-1M in diethyl ether). Upon completion of the addition, the reaction mixture was warmed to 65° C., where it was stirred for 3.5 hours. After this time the reaction mixture was allowed to cool to ambient temperature, where it stirred for about 18 hours. The reaction mixture was then poured into a mixture of 50 mL of ice and 75 mL of an aqueous solution saturated with ammonium chloride. The mixture was stirred until the ice melted and then extracted with ethyl acetate. The extract was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue, which was dissolved in boiling petroleum ether and treated with decolorizing carbon. Diatomaceous earth was stirred in, and the mixture was filtered through a pad of activated magnesium silicate. The magnesium silicate pad was washed with 30% acetone in methylene chloride. The filtrate and wash were combined and concentrated under reduced pressure, yielding 0.4 gram of N-(4-propoxyphenylmethyl)-4-[(4-trifluoromethoxyphenyl)(4-chlorophenyl)hydroxymethyl]piperidine. The NMR spectrum was consistent with the proposed structure.

reactant | N-(4-propoxyphenylmethyl)-4-(4-trifluoromethoxyphenylcarbonyl)piperidine | 0.0014 mole, 0.6 gram | C(CC)OC1=CC=C(C=C1)CN1CCC(CC1)C(=O)C1=CC=C(C=C1)OC(F)(F)F | C23H26F3NO3
reactant | 4-chlorophenylmagnesium bromide | 1.8 mL | ClC1=CC=C(C=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-(4-propoxyphenylmethyl)-4-[(4-trifluoromethoxyphenyl)(4-chlorophenyl)hydroxymethyl]piperidine | 0.4 gram | C(CC)OC1=CC=C(C=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)OC(F)(F)F | C29H31ClF3NO3
